US04409214
To a solution of benzhydryl 7-(5-benzamido-5-benzhydryloxycarbonylpentanamido)-3-chloromethyl-3-cephem-4-carboxylate (102 g) in N,N-dimethylformamide (150 ml) were added triphenylphosphine (48.5 g) and sodium iodide (18.4 g), and the mixture was stirred at ambient temperature for 1.5 hours. The reaction mixture was added dropwise to isopropyl alcohol (5000 ml), and the precipitated material was collected by filtration and washed with diisopropyl ether to obtain [7-(5-benzamido-5-benzhydryloxycarbonylpentanamido)-4-benzhydryloxycarbonyl-3-cephem-3-yl]methyl-triphenylphosphonium iodide (123.5 g), mp 165°-175° C. (dec.).

reactant | benzhydryl 7-(5-benzamido-5-benzhydryloxycarbonylpentanamido)-3-chloromethyl-3-cephem-4-carboxylate | 102 g | C(C1=CC=CC=C1)(=O)NC(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C47H42ClN3O7S
reactant | triphenylphosphine | 48.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium iodide | 18.4 g | [I-].[Na+]
reactant | isopropyl alcohol | 5000 ml | C(C)(C)O | C3H8O
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | [7-(5-benzamido-5-benzhydryloxycarbonylpentanamido)-4-benzhydryloxycarbonyl-3-cephem-3-yl]methyl-triphenylphosphonium iodide | 123.5 g | [I-].C(C1=CC=CC=C1)(=O)NC(CCCC(=O)NC1[C@@H]2N(C(=C(CS2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C65H56N3O7PS.HI/c69-56(43-25-42-55(66-61(70)50-34-17-5-18-35-50)64(72)74-59(46-26-9-1-10-27-46)47-28-11-2-12-29-47)67-57-62(71)68-58(65(73)75-60(48-30-13-3-14-31-48)49-32-15-4-16-33-49)51(45-77-63(57)68)44-76(52-36-19-6-20-37-52,53-38-21-7-22-39-53)54-40-23-8-24-41-54;/h1-24,26-41,55,57,59-60,63H,25,42-45H2,(H-,66,67,69,70);1H/t55?,57?,63-;/m1./s1
